US04438207
To a solution of 2.10 g (5.24 mmol) of (6aR-trans)-4-[(6a,7,10,10a-Tetrahydro-6,6,9-trimethyl-3-pentyl-6H-dibenzo[b,d]pyran-1-yl)oxy]butanoic acid in 6 ml of benzene was added 2.1 ml (3.06 g, 24 mmol) of oxalyl chloride. When the spontaneous bubbling ceased, the mixture was heated with an 85° oil bath for 30 min. The excess oxalyl chloride and the benzene were evaporated under vacuum, 2×2 ml of benzene was added, and this was also evaporated. The residue was dissolved in 2 ml of ether and added with stirring to an ice cold solution of 0.93 g (6.78 mmol) of tyramine in 6.8 ml of 1 N sodium hydroxide, while also adding, at the same rate, 5.3 ml of ice cold 1 N sodium hydroxide. The resulting thick suspension was stirred at ice temperature for one hour, acidified with hydrochloric acid and extracted with ether. The extracts were dried and concentrated. The residue was subjected to chromatography over silica gel. Elution with 2% methanol in chloroform and concentration of the fractions containing product gave 738 mg (27%) of (6aR-trans)-4-[(6a,7,10,10a-Tetrahydro-6,6,9-trimethyl-3-pentyl-6Hdibenzo[b,d]pyran-1-yl)oxy]-N-[2-(4-hydroxyphenyl)ethyl]-butanamide as a pale yellow gum occluding 0.5 mol of water: ir (CHCl3) 1665 cm-1 ; uv max (C2H5OH) 225 (infl) (ε20,400), 280 (3030), and 305 (infl) (830); nmr (CDCl3) 6.47 and 6.73 (two d, 1,4-disubstituted benzene), 6.31 and 6.21 (two sharp d, H-2 and H-4), 5.54 (m, NH), 5.42 (m, H-8) , 3.94 (t, OCH2C), 3.46 (t, NCH2C), 3.12 (m, H-10a), 1.65 (s, 9-CH3), 1.36 and 1.08 (two s, 6,6-diCH3), and 0.87 (t, ω-CH3); mass mol wt 519; [α]D25 -154.6° (c 1.015, CHCl3).

reactant | (6aR-trans)-4-[(6a,7,10,10a-Tetrahydro-6,6,9-trimethyl-3-pentyl-6H-dibenzo[b,d]pyran-1-yl)oxy]butanoic acid | 5.24 mmol, 2.10 g | CC1([C@H]2[C@H](C3=C(O1)C=C(C=C3OCCCC(=O)O)CCCCC)CC(=CC2)C)C | C25H36O4
reactant | oxalyl chloride | 24 mmol, 2.1 ml, 3.06 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | tyramine | 6.78 mmol, 0.93 g | NCCC1=CC=C(C=C1)O | C8H11NO
reactant | hydrochloric acid | Cl | ClH
reactant | water | 0.5 mol | O | H2O
solvent | benzene | 6 ml | C1=CC=CC=C1 | C6H6
solvent | sodium hydroxide | 1 N, 6.8 ml | [OH-].[Na+]
product | (6aR-trans)-4-[(6a,7,10,10a-Tetrahydro-6,6,9-trimethyl-3-pentyl-6Hdibenzo[b,d]pyran-1-yl)oxy]-N-[2-(4-hydroxyphenyl)ethyl]-butanamide | 738 mg, 27% | CC1([C@H]2[C@H](C3=C(O1)C=C(C=C3OCCCC(=O)NCCC3=CC=C(C=C3)O)CCCCC)CC(=CC2)C)C | C33H45NO4
